US07226926B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol (194 mg, 1.0 mmol) was coupled with 2,6-dibromopyridine (403 mg, 1.7 mmol) using Cs2CO3 (652 mg, 2.0 mmol), as described in Example 4, affording 2-[3-(6-bromopyridin-2-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol as a white amorphous solid (210 mg, 60%): m/z (ES+) 350, 352 (100%, [MH]+).

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | 1.0 mmol, 194 mg | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 2,6-dibromopyridine | 1.7 mmol, 403 mg | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | Cs2CO3 | 2.0 mmol, 652 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 2-[3-(6-bromopyridin-2-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol | 210 mg, 60% | BrC1=CC=CC(=N1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C15H13BrFN3O
